US07968583B2
Preparation of 3-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-isonicotinoyl Chloride
To a suspension of 3-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-isonicotinic acid (350 mg, 1.1 mmol) in dry dichloromethane (15 mL) and oxalyl chloride (0.65 mL, 6.6 mmol, 6 eq) a drop of N,N-dimethylformamide was added. The mixture was stirred at room temperature for 1 h and then evaporated to dryness affording the crude title compound that was used as such for the next step.

reactant | 3-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-isonicotinic acid | 1.1 mmol, 350 mg | O1CCC(CC1)N(C1=C(C(=O)O)C=CN=C1)C(C(F)(F)F)=O | C13H13F3N2O4
reactant | oxalyl chloride | 6.6 mmol, 0.65 mL, 6 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-isonicotinoyl Chloride | O1CCC(CC1)N(C1=C(C(=O)Cl)C=CN=C1)C(C(F)(F)F)=O | C13H12ClF3N2O3
